US08012976B2
tert-Butyl 2,6-dimethylpiperazine-1-carboxylate
A solution of 4-benzyl 1-tert-butyl 2,6-dimethylpiperazine-1,4-dicarboxylate (4.8 g, 0.0144 mol) in methanol (25 mL) was added 480 mg of 10% Pd/C and stirred at room temperature under H2 overnight. The resulting mixture was filtered and concentrated to give the title product (2.8 g, 97%) as colorless oil. LC-MS (ESI) m/z: 215 (M+1)+. 1H-NMR (400 MHz, CDCl3) δ (ppm): 1.25 (d, J=6.8 Hz, 3H), 1.46 (s, 9H), 1.64 (s, 1H), 2.78-2.87 (m, 4H), 3.99-4.05 (m, 2H).

reactant | 4-benzyl 1-tert-butyl 2,6-dimethylpiperazine-1,4-dicarboxylate | 0.0144 mol, 4.8 g | CC1N(C(CN(C1)C(=O)OCC1=CC=CC=C1)C)C(=O)OC(C)(C)C | C19H28N2O4
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd/C | 480 mg | [Pd] | Pd
product | tert-Butyl 2,6-dimethylpiperazine-1-carboxylate | 2.8 g, 97% | CC1N(C(CNC1)C)C(=O)OC(C)(C)C | C11H22N2O2
